US08540904B2
O-phenylenediamine (21.6 g (0.2 mol)) was dissolved in 944 g of DMF, and thereto was added dropwise a solution obtained by dissolving 50.9 g (0.20 mol) of S,S′-dimethyl-N-(2-benzothiazolyl)-carbonimidodithioate in 1258 g of DMF. The resulting mixture was then heated to 153° C., refluxed under a nitrogen atmosphere for 13 hours, and then cooled to 0° C. Thereto was added dropwise 2000 g of water, and a precipitate was filtered off, washed with water, and dried to obtain 32.0 g of 2-(2-benzothiazolylamino)benzoimidazole (L8: see Table 1 below). The yield was 60.1% based on o-phenylenediamine.

reactant | O-phenylenediamine | 0.2 mol, 21.6 g | [2H]C1=C(C(=C(C(=C1[2H])N)N)[2H])[2H] | C6H8N2
reactant | S,S′-dimethyl-N-(2-benzothiazolyl)-carbonimidodithioate | 0.20 mol, 50.9 g | C[SH-]C(=NC=1SC2=C(N1)C=CC=C2)[SH-]C
reactant | water | 2000 g | O | H2O
solvent | DMF | 944 g | CN(C)C=O | C3H7NO
solvent | DMF | 1258 g | CN(C)C=O | C3H7NO
product | 2-(2-benzothiazolylamino)benzoimidazole | 32.0 g, yield was 60.1% | S1C(=NC2=C1C=CC=C2)NC=2NC1=C(N2)C=CC=C1 | C14H10N4S
